US04921962
Di-(1-cyclooctyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate
A mixture of 75 g (156 mmol) of di-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate, 1.3 g of molybdenum trioxide and 475 ml of cyclooctane is heated to 118° C. To this mixture is added 130 g (1.01 mol) of 70% aqueous tert-butyl hydroperoxide during a 5-hour period. The reaction mixture is maintained at reflux during the addition period, and water is collected in a Dean-Stark trap. The red reaction mixture is heated at reflux for 7 hours after the addition is complete to discharge the red color. The solids are removed by filtration and the filtrate is evaporated to give a yellow oil. Purification (Waters Prep 500A HPLC, 20:1 hexane:ethyl acetate) affords 78.7 g (68% yield) of the title compound as a colorless syrup.

reactant | di-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 156 mmol, 75 g | C(CCCCCCCCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OC1CC(NC(C1)(C)C)(C)C | C28H52N2O4
reactant | cyclooctane | 475 ml | C1CCCCCCC1 | C8H16
reactant | tert-butyl hydroperoxide | 1.01 mol, 130 g | C(C)(C)(C)OO | C4H10O2
reactant | water | O | H2O
catalyst | molybdenum trioxide | 1.3 g | [Mo](=O)(=O)=O
product | Di-(1-cyclooctyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate | 78.7 g, 68% yield | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OC1CCCCCCC1)(C)C)(=O)OC1CC(N(C(C1)(C)C)OC1CCCCCCC1)(C)C | C44H80N2O6
